US08420849B2
2-(4-Chlorophenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (100 mL) solution of 2-(4-chlorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (10.00 g, 37.29 mmol, purity: 95%) was cooled to −40° C., and to this solution, a chloroform (150 mL) solution of sulfuryl chloride (3.6 mL, 1.2 equivalent amounts) was dropwise added over a period of 50 minutes, followed by stirring at −35° C. for 40 minutes. The temperature of the solution was raised to −3° C., and water (20 mL) was dropwise added, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a saturated sodium hydrogencarbonate aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. The obtained crude product was suspended in isopropyl alcohol (100 mL) at room temperature, followed by stirring at 0° C. for 15 minutes. The formed crystals were subjected to filtration to give the desired product as a yellow solid (7.26 g, yield: 77%).

reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-chlorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 37.29 mmol, 10.00 g | ClC1=CC=C(C=C1)C1SCC(=C1O)C(=O)C | C12H11ClO2S
reactant | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 3.6 mL, 1.2 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 20 mL | O | H2O
solvent | isopropyl alcohol | 100 mL | C(C)(C)O | C3H8O
product | 2-(4-Chlorophenyl)-3-hydroxy-4-methylcarbonyl thiophene | 7.26 g, yield: 77% | ClC1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C12H9ClO2S
